US07652049B2
To a solution of 283.5 mg (0.418 mmol) of the mixture of tert-butyl {2-amino-2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate and tert-butyl [1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl]carbamate in CH2Cl2 (15 mL) was added TFA (1.5 mL). The reaction was stirred at room temperature for 5 hours and then poured into 1 N NaOH (50 mL). The mixture was extracted with CH2Cl2 (3×50 mL) and the organic extracts were combined, dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 5 to 10% MeOH/CH2Cl2 gave 1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}ethane-1,2-diamine. Rf=0.46 (10% MeOH/CH2Cl2). LCMS=579.2 (M+1)+. 1H NMR (CD2Cl2, 500 MHz) δ 7.83 (s, 2H), 7.77 (s, 2H), 7.55 (d, J=7.8 Hz, 1H), 7.31 (d, J=8.1 Hz, 1H), 7.24 (dd, J=8.4, 2.3 Hz, 1H), 6.99 (d, J=2.0 Hz, 1H), 6.92 (d, J=8.5 Hz, 1H), 4.06 (m, 1H), 3.59-3.76 (m, 2H), 3.69 (s, 3H), 2.88 (m, 1H), 2.67 (dd, J=11.9, 4.3 Hz, 1H), 2.51 (m, 1H), 1.22 (d, J=6.9 Hz, 6H).

reactant | tert-butyl {2-amino-2-[3,5-bis(trifluoromethyl)phenyl]ethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | NC(CN(C(OC(C)(C)C)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C33H35F9N2O3
reactant | tert-butyl [1-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl]carbamate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)NC(OC(C)(C)C)=O)(F)F | C33H35F9N2O3
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1 N, 50 mL | [OH-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}ethane-1,2-diamine | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CNCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)N)(F)F | C28H27F9N2O
